US06949579B2
469 mg of phenylboronic acid, 760 mg of sodium carbonate in 30 cm3 of water and 379 mg of tetrakis(triphenylphosphine)palladium are added to 1.15 g of N-(5-bromo-6,7-difluoro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl)butanamide, prepared in Example 104, in 150 cm3 of dioxane, and the mixture is refluxed for 4 hours. The reaction medium is diluted with 100 cm3 of ethyl acetate and 75 cm3 of water and filtered through a sinter funnel packed with Celite. The organic phase is separated out after settling of the phases has taken place, washed with 75 cm3 of water and with 75 cm3 of saturated sodium chloride solution, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 50° C.) to give 2 g of crude product in the form of a black oil. The crude product is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 3.5 cm), eluting with a cyclohexane/ethyl acetate mixture (85/15 by volume). The fractions containing the expected product are combined, evaporated under reduced pressure (2 kPa; 50° C.) and dried (90 Pa, 45° C.); to give 1.1 g of N-[6,7-difluoro-5-phenyl-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide in the form of a yellow oil.

reactant | phenylboronic acid | 469 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 760 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-(5-bromo-6,7-difluoro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl)butanamide | 1.15 g | BrC=1C=C2C(=NN(C2=C(C1F)F)COCC[Si](C)(C)C)NC(CCC)=O | C17H24BrF2N3O2Si
solvent | water | 30 cm3 | O | H2O
solvent | dioxane | 150 cm3 | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
solvent | water | 75 cm3 | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 379 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[6,7-difluoro-5-phenyl-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1.1 g | FC1=C(C=C2C(=NN(C2=C1F)COCC[Si](C)(C)C)NC(CCC)=O)C1=CC=CC=C1 | C23H29F2N3O2Si
